US04166115
1 N-Aqueous solution of sodium hydroxide (1.5 ml.) was added to a solution of ethyl 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate (syn isomer) (0.3 g.) in ethanol (5 ml.) and the resulting mixture was stirred for 2 hours at 40° C. The reaction mixture was adjusted to pH 7.0 with 10% hydrochloric acid, concentrated under reduced pressure, adjusted to pH 1.5 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off to give crystalline substance of 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetic acid (syn isomer) (0.14 g.).

reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | ethyl 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate | 0.3 g | CON=C(C(=O)OCC)C=1N=C(SC1)C | C9H12N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetic acid | 0.14 g | CON=C(C(=O)O)C=1N=C(SC1)C | C7H8N2O3S
